US04812462
Methyl-1-(3-methyl-4-nitrophenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]-pyridine-6-carboxylate.
A mixture of 16.7 g dicyclohexycarbodiimide, 10.9 g hydroxybenzotriazole hydrate, 17.2 g diphenylacetic acid and 150 mL acetonitrile is stirred at 2° C. for 15 min then treated with a solution of 25.4 g methyl-1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate in 125 mL acetonitrile. The resulting suspension is stirred 48 hr at 25° C., filtered and the filtrate is evaporated, dissolved in dichloromethane, washed with 10% Na2CO3, dried and evaporated. Chromatography on silica gel (chloroform-methanol, 99:1) gives a crisp foam which crystallizes when triturated with methanol. MS (FAB) 525 (M+1).

reactant | hydroxybenzotriazole hydrate | 10.9 g | O.OC1=CC=CC=2NN=NC21
reactant | diphenylacetic acid | 17.2 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | methyl-1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | 25.4 g | COC(=O)C1CC2=C(CN1)N=CN2CC2=CC(=C(C=C2)[N+](=O)[O-])C | C16H18N4O4
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | Methyl-1-(3-methyl-4-nitrophenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]-pyridine-6-carboxylate | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=C(C=C2)[N+](=O)[O-])C | C30H28N4O5
